US04797471
(a) Ac-Orn-Pro-Gly-OBzl
2.0 g of Ac-Orn(Boc)-Pro-Gly-OBzl are dissolved in 5 ml of trifluoroacetic acid, and the solution is stirred at room temperature for 1 hour. After evaporation under high vacuum, 2.1 g of the trifluoroacetate of Ac-Orn-Pro-Gly-OBzl remain. Rf (system 2)=0.3; MS (FAB): 419 (M+1).

reactant | Ac-Orn(Boc)-Pro-Gly-OBzl | 2.0 g | N([C@@H](CCCNC(=O)OC(C)(C)C)C(=O)N1[C@H](C(=O)NCC(=O)OCC2=CC=CC=C2)CCC1)C(=O)C | C26H38N4O7
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Ac-Orn-Pro-Gly-OBzl | N([C@@H](CCCN)C(=O)N1[C@H](C(=O)NCC(=O)OCC2=CC=CC=C2)CCC1)C(=O)C | C21H30N4O5
